US04190659
To a suspension of 1.9 g. of 4-ethoxyquinolin-2(1H)-one in 40 ml. of dimethylacetamide is added 0.42 g. of sodium hydride (56% in mineral oil, pentane washed), and the resulting mixture is heated at 60° C. for one hour. The mixture is filtered (while excluding moisture), cooled and there is then added 1.5 g. of methyliodide followed by stirring for 2 hours at ambient temperatures. The resulting mixture is poured into 200 ml. of cold water and the resulting slurry extracted 3 times each with 100 ml. of ethyl acetate. The combined organic extracts are washed with water and saturated sodium chloride solution, dried and evaporated in vacuo. The residue is crystallized from ether to obtain 1-methyl-4-ethoxyquinolin-2(1H)-one, m.p. 80°-82° C.

reactant | 4-ethoxyquinolin-2(1H)-one | C(C)OC1=CC(NC2=CC=CC=C12)=O | C11H11NO2
reactant | sodium hydride | [H-].[Na+]
reactant | dimethylacetamide | CC(=O)N(C)C | C4H9NO
product | 1-methyl-4-ethoxyquinolin-2(1H)-one | CN1C(C=C(C2=CC=CC=C12)OCC)=O | C12H13NO2
